US04059721
6.76 kg of 1,4-butanediol, 10.8 kg of acrylic acid, 1.3 kg of an acid ion exchanger (Lewatit 3333 of BAYER AG), 22.8 of p-methoxyphenol and 3 liters of a petroleum ether fraction boiling in the range from 60° to 70° C were heated to the boil under a water separator, in a 25 liter stirred kettle equipped with a water separator, whilst stirring, passing in air and at the same time adding dropwise 100 g of allyl alcohol, over the entire duration of the esterification. After a time of 62 hours, in which the boiling point of the mixture had risen from an initial value of 63° C to a final value of 70° C, an acid number of 25 was found by titration of a sample, and the reaction was discontinued. At that stage, 2.36 liters of H2O had been separated off. The petroleum ether was distilled off initially under normal pressure and then under reduced pressure. The product was freed from the esterification catalyst by filtration and the catalyst was used for further esterifications. 1.45 kg of a clear, practically colourless 1,4-butanediol bis-acrylate were obtained, having a high reactivity when cured under the influence of electron beams. The viscosity corresponding to a time of outflow of 11 seconds, measured in a DIN cup 4, at 20° C.

reactant | 1,4-butanediol | 6.76 kg | C(CCCO)O | C4H10O2
reactant | acrylic acid | 10.8 kg | C(C=C)(=O)O | C3H4O2
reactant | p-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | allyl alcohol | 100 g | C(C=C)O | C3H6O
solvent | water | O | H2O
product | 1,4-butanediol bis-acrylate | C(C=C)(=O)OCCCCOC(C=C)=O | C10H14O4
